US05283361
A. To 2-[2-(4-fluorophenylthio)-4-fluorophenyl]-4,4-dimethyloxazoline.
To 4-fluorothiophenol (9.26 g; 72.2 mmol.) in dry THF under nitrogen and cooled to -78° C. was added n-butyllithium (45.2 ml of 1.6M) dropwise affording a white slurry. To this mixture was added 2-(2,4-difluorophenyl)-4,4-dimethyloxazoline (7.63 g; 36.1 mmol.) in 20 ml of dry THF dropwise. The reaction mixture was allowed to warm to room temperature overnight. An additional 50 ml of THF was added to afford a solution and the reaction stirred over the weekend. The mixture was poured into water, acidified to pH 5 with 1N HCl. The mixture was extracted twice with diethyl ether and the organics combined, washed with water and then 0.2N NaOH. The organic layer was washed again with water and then brine, dried over MgSO4, and concentrated to afford 13.2 g of crude product which after recrystallization from hexane afforded 8.82 g of the subtitle compound.

reactant | 4-fluorothiophenol | 72.2 mmol, 9.26 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | n-butyllithium | 1.6M, 45.2 ml | C(CCC)[Li]
reactant | 2-(2,4-difluorophenyl)-4,4-dimethyloxazoline | 36.1 mmol, 7.63 g | FC1=C(C=CC(=C1)F)C=1OCC(N1)(C)C | C11H11F2NO
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[2-(4-fluorophenylthio)-4-fluorophenyl]-4,4-dimethyloxazoline | 8.82 g | FC1=CC=C(C=C1)SC1=C(C=CC(=C1)F)C=1OCC(N1)(C)C | C17H15F2NOS
